US09403798B2
3-[(4-Fluorophenyl)thio]azetidine hydrochloride
To tert-butyl 3-[(4-fluorophenyl)thio]azetidine-1-carboxylate (139 mg, 0.49 mmol) synthesized in Reference Synthesis Example 64, 4 M hydrogen chloride/1,4-dioxane solution (1.0 mL) was added and the resultant solution was stirred at 0° C. for 30 minutes and at room temperature for 2 hours. After completion of the reaction, the reaction solution was concentrated under reduced pressure to obtain a crude product (119 mg) of the title compound.

reactant | tert-butyl 3-[(4-fluorophenyl)thio]azetidine-1-carboxylate | 0.49 mmol, 139 mg | FC1=CC=C(C=C1)SC1CN(C1)C(=O)OC(C)(C)C | C14H18FNO2S
reactant | hydrogen chloride 1,4-dioxane | 4 M, 1.0 mL | Cl.O1CCOCC1
product | 3-[(4-Fluorophenyl)thio]azetidine hydrochloride | 119 mg | Cl.FC1=CC=C(C=C1)SC1CNC1 | InChI=1S/C9H10FNS.ClH/c10-7-1-3-8(4-2-7)12-9-5-11-6-9;/h1-4,9,11H,5-6H2;1H
